US07465731B2
To a mixture of (2E)-3-(5-{[(3R)-1-(4-chlorobenzoyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide (288 mg) and ethanol (2.9 mL) was added 2N hydrogen chloride in ethanol (1.53 mL). After stirring at room temperature for 2 hours, resulting precipitate was collected by filtration, and washed with ethanol to give (2E)-3-(5-{[(3R)-1-(4-chlorobenzoyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-hydroxyacrylamide hydrochloride (138 mg).

reactant | (2E)-3-(5-{[(3R)-1-(4-chlorobenzoyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-(tetrahydro-2H-pyran-2-yloxy)acrylamide | 288 mg | ClC1=CC=C(C(=O)N2C[C@@H](CC2)NC=2N=CC(=NC2)/C=C/C(=O)NOC2OCCCC2)C=C1 | C23H26ClN5O4
reactant | hydrogen chloride | 2N | Cl | ClH
solvent | ethanol | 1.53 mL | C(C)O | C2H6O
solvent | ethanol | 2.9 mL | C(C)O | C2H6O
product | (2E)-3-(5-{[(3R)-1-(4-chlorobenzoyl)-3-pyrrolidinyl]amino}-2-pyrazinyl)-N-hydroxyacrylamide hydrochloride | 138 mg | Cl.ClC1=CC=C(C(=O)N2C[C@@H](CC2)NC=2N=CC(=NC2)/C=C/C(=O)NO)C=C1 | InChI=1S/C18H18ClN5O3.ClH/c19-13-3-1-12(2-4-13)18(26)24-8-7-15(11-24)22-16-10-20-14(9-21-16)5-6-17(25)23-27;/h1-6,9-10,15,27H,7-8,11H2,(H,21,22)(H,23,25);1H/b6-5+;/t15-;/m1./s1
